US09340538B2
Step C: 4-((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-2-(5-fluorothiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(5-fluorothiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.52 g, 1.06 mmol) was reacted with morpholine-3-carboxylic acid hydrochloride (0.21 g, 1.28 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a yellowish solid (0.35 g, 60%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-2-(5-fluorothiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.06 mmol, 0.52 g | BrCC1=C(C(N=C(N1)C=1SC(=CN1)F)C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C17H13BrCl2FN3O2S
reactant | morpholine-3-carboxylic acid hydrochloride | 1.28 mmol, 0.21 g | Cl.N1C(COCC1)C(=O)O
product | 4-((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-2-(5-fluorothiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 0.35 g, 60% | ClC1=C(C=CC(=C1)Cl)C1C(=C(NC(=N1)C=1SC(=CN1)F)CN1C(COCC1)C(=O)O)C(=O)OCC | C22H21Cl2FN4O5S
